US05366987
(c) (±)-4-Dodecyl-α-phenyl-2H-1,2,3-triazole-2-acetic acid
Solid NaOH (0.44 g, 11 mmol) was added to a solution of ethyl (±)-4-dodecyl-α-phenyl-2H-1,2,3-triazole-2-acetate (2.92 g, 7.3 mmol) in 100 mL 95% ethanol. The resulting yellow solution was stirred for 1 hour and then concentrated in vacuo. The residue was partitioned between water and ether, the aqueous layer was acidified with concentrated HCl and extracted with ethyl acetate. The ethyl acetate solution was dried over MgSO4, filtered, and concentrated to give an off-white solid (2.75 g, quant.); mp 94°-98° C.

reactant | NaOH | 11 mmol, 0.44 g | [OH-].[Na+]
reactant | ethyl (±)-4-dodecyl-α-phenyl-2H-1,2,3-triazole-2-acetate | 7.3 mmol, 2.92 g | C(CCCCCCCCCCC)C1=NN(N=C1)C(C(=O)OCC)C1=CC=CC=C1 | C24H37N3O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (±)-4-Dodecyl-α-phenyl-2H-1,2,3-triazole-2-acetic acid | C(CCCCCCCCCCC)C1=NN(N=C1)C(C(=O)O)C1=CC=CC=C1 | C22H33N3O2
